US06743889B1
Into a 250 mL three-necked, round-bottomed flask equipped with a magnetic stirrer, a nitrogen inlet, and a dropping funnel, aluminum chloride (10.85 g, 81.4 mmol) and fluorobenzene (80 mL) were introduced. The flask was then placed in an ice-water bath with its temperature maintained between 15-20° C. The solution of 5-acetyloxyisophthaloyl dichloride (8.5 g, 32.5 mmol) in fluorobenzene (20 mL) was then added dropwise for 20 min. The reaction mixture was then allowed to warm up to room temperature and stand with stirring at room temperature for 12 h. The resulting light brown solution was poured into ice-water (500 mL) containing hydrochloric acid (50 mL). Methylene chloride (50 mL) was then added to the mixture and the organic layer was separated with the aid of a separatory funnel. The solvent of the organic extract was then removed on a rotary evaporator. The resulting yellow jelly-like residue was further dried under the reduced pressure to give 11.8 g of 1-acetoxy-3,5-bis(benzoyl)benzene (95.5% crude yield). The 1-acetoxy-3,5-bis(benzoyl)benzene was then dissolved in ethanol (130 mL), followed by the addition of a solution of potassium hydroxide (10.0 g, 178 mmol) in water (20 mL). The resulting mixture was subsequently heated under the reflux for 1.5 h. After it was allowed to cool to near room temperature, the solution was poured into ice-water (500 mL) containing hydrochloric acid (50 mL). The precipitates were collected by suction filtration, air-dried overnight and finally recrystallized from toluene to afford 9.9 g (90% overall yield) of 3,5-Bis(4-fluorobenzoyl)phenol as white crystals, m.p. 133.5-134° C. Anal. Calcd. for C20H12F2O3: C, 71.01%; H, 3.58%; O, 14.19%. Found: C, 70.79%; H, 3.98%; O, 14.51%. FT-IR (KBr, cm−1): 1596, 1657, 3298. Mass spectrum (m/e): 338 (M+, 100% relative abundance). 1H-NMR (CDCl3, δ in ppm): 7.13-7.19 (d, 4H, Ar), 7.48-7.49 (d, 2H, Ar), 7.53-7.54 (d, 1H, Ar), 7.84-7.89 (dd, 4H, Ar). 13C-NMR (CDCl3, δ in ppm): 115.71, 120.52, 121.96, 132.73, 133.36, 138.83, 157.69, 167.34, 194.32.

reactant | aluminum chloride | 81.4 mmol, 10.85 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 5-acetyloxyisophthaloyl dichloride | 32.5 mmol, 8.5 g | C(C)(=O)OC=1C=C(C=C(C(=O)Cl)C1)C(=O)Cl | C10H6Cl2O4
reactant | hydrochloric acid | 50 mL | Cl | ClH
reactant | Methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
reactant | fluorobenzene | 20 mL | FC1=CC=CC=C1 | C6H5F
reactant | fluorobenzene | 80 mL | FC1=CC=CC=C1 | C6H5F
product | 1-acetoxy-3,5-bis(benzoyl)benzene | 11.8 g | C(C)(=O)OC1=CC(=CC(=C1)C(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O | C22H16O4
